US08202873B2
{4-[4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-acetonitrile hydrochloride
Combine 3′-chloro-4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.300 g, 0.935 mmol), potassium carbonate (0.310 g, 2.24 mmol), (4-Cyanomethylphenyl)boronic acid (0.180 g, 1.12 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.011 g, 0.009 mmol) in N,N-dimethylacetamide (1.9 mL). Add water (940 μL), and reflux reaction for 6 hr. Continue to heat at 70° C. for 18 hr. Add DCM and wash with water. Extract water layer three times with DCM. Dry combined organics (magnesium sulfate) and purify (silica gel chromatography, eluting with 50:50 to 100:0 ethyl acetate:hexanes then 10:90 to 20:80 methanol:ethyl acetate), to give the free base of the title compound (196 mg, 52%). Dissolve the free base (0.194 g, 0.482 mmol) in acetonitrile (579 μL) and add aq. 1 N HCl solution (579 μL, 0.579 mmol). Shake for 15 min. at ambient temperature. Freeze dry to give the title compound (201 mg, 95%). MS (ES): m/z=402 [M+H]+.

reactant | 3′-chloro-4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.935 mmol, 0.300 g | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)CC | C15H21ClN6
reactant | potassium carbonate | 2.24 mmol, 0.310 g | C([O-])([O-])=O.[K+].[K+]
reactant | (4-Cyanomethylphenyl)boronic acid | 1.12 mmol, 0.180 g | C(#N)CC1=CC=C(C=C1)B(O)O | C8H8BNO2
reactant | water | 940 μL | O | H2O
solvent | N,N-dimethylacetamide | 1.9 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.009 mmol, 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {4-[4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-acetonitrile hydrochloride | 196 mg, 52% | Cl.C(C)N1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CC#N | InChI=1S/C23H27N7.ClH/c1-3-30-18(2)21(16-27-30)17-28-12-14-29(15-13-28)23-22(25-10-11-26-23)20-6-4-19(5-7-20)8-9-24;/h4-7,10-11,16H,3,8,12-15,17H2,1-2H3;1H
